US05578624
1-[4-[3-[4-(5-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-3-methoxy-phenyl]ethanone
A mixture of 5-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (2.2 g, 10 mmol), 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone (2.4 g, 10 mmol), K2CO3 (1.4 g), a few crystals of KI and acetonitrile (100 ml) was stirred and refluxed for 8 hours. The reaction was poured into water and the aqueous mixture was extracted with ethyl acetate. The ethyl acetate extract was washed (brine), dried (MgSO4), and concentrated to afford 4.0 g of a white solid. The solid was chromatographed on a Waters Prep 500 HPLC utilizing silica gel columns and eluting with methylene chloride/methanol (5%). Concentration of the appropriate fractions afforded 2.0 g (47%) of 1-[4-[3-[4-(5-flouro-2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-3-methoxyphenyl]-ethanone as a white crystalline solid, m.p.=103°-105° C.

reactant | 5-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 10 mmol, 2.2 g | FC=1C=CC2=C(C(=NO2)C2CCNCC2)C1 | C12H13FN2O
reactant | 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone | 10 mmol, 2.4 g | ClCCCOC1=C(C=C(C=C1)C(C)=O)OC | C12H15ClO3
reactant | K2CO3 | 1.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-[4-[3-[4-(5-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-3-methoxy-phenyl]ethanone | 4.0 g | FC=1C=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=C(C=C(C=C2)C(C)=O)OC)C1 | C24H27FN2O4
